US04719210
A solution of 0.164 g of 1-bromo-2-(5-benzyloxy-4-methoxymethyl-beta-carbolin-3-yl)acetylene in 5 ml of abs. tetrahydrofuran is cooled under N2 atmosphere to -78° C. and mixed with 0.46 ml of a 1.4 molar solution of tertbutyllithium in pentane. After 1 hour stirring at -78° C. the reaction mixture is heated to room temperature and stirred for 1.5 hours more. Then it is carefully decomposed with water and extracted with dichloromethane. The organic phases are combined, dried and the solvent evaporated. The residue is chromatographed over silica gel with acetone/hexane=1+1 as eluant. 0.056 g of 5-benzyloxy-3-ethinyl-4-methoxymethyl-beta-carboline with a melting point of 207°-209° is obtained.

reactant | 1-bromo-2-(5-benzyloxy-4-methoxymethyl-beta-carbolin-3-yl)acetylene | 0.164 g | BrC#CC=1N=CC=2NC3=CC=CC(=C3C2C1COC)OCC1=CC=CC=C1 | C22H17BrN2O2
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
reactant | tertbutyllithium | C(C)(C)(C)[Li]
reactant | water | O | H2O
solvent | pentane | CCCCC | C5H12
product | 5-benzyloxy-3-ethinyl-4-methoxymethyl-beta-carboline | 0.056 g | C(C1=CC=CC=C1)OC1=C2C=3C(=C(N=CC3NC2=CC=C1)C#C)COC | C22H18N2O2
